US05342844
2-[1-(Phenylmethyl)-3-pyrrolidinyl]benzonitrile
A solution of N-benzyl-N-(methoxymethyl)trimethylsilylmethylamine (16.62 g, 70.0 mmol) in dichloromethane (15 mL) are added dropwise, over a 45-minute period, to a solution of 2-ethenylbenzonitrile (6.00 g, 46.0 mmol) and trifluoroacetic acid (0.57 g, 5.0 mmol) in dichloromethane (55 mL). The resulting solution was stirred at room temperature for an additional 10 to 15 minutes, and then heated with saturated aqueous sodium bicarbonate solution (ca 10-15 mL). The organic layer was decanted, washed with water, and dried over anhydrous magnesium sulfate. Filtration and concentration of the solution provided an orange oil which was chromatographed (silica-gel, hexanes-ethyl acetate 5:1) to afford the title compound (6.95 g, 58%) as a pale yellow oil.

reactant | N-benzyl-N-(methoxymethyl)trimethylsilylmethylamine | 70.0 mmol, 16.62 g | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | 2-ethenylbenzonitrile | 46.0 mmol, 6.00 g | C(=C)C1=C(C#N)C=CC=C1 | C9H7N
reactant | trifluoroacetic acid | 5.0 mmol, 0.57 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | ca 10-15 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
product | 2-[1-(Phenylmethyl)-3-pyrrolidinyl]benzonitrile | 6.95 g, 58% | C1(=CC=CC=C1)CN1CC(CC1)C1=C(C#N)C=CC=C1 | C18H18N2
